US07902181B2
b) (S)-2-Amino-3-(6-bromopyridin-3-yl)propanoic Acid
(S)-tert-Butyl 2-amino-3-(6-bromopyridin-3-yl)propanoate (4 g) was dissolved in DCM (20 mL) and the solution obtained was treated with TFA (20 mL). The mixture was stirred for 0.5 h, concentrated in vacuo, azeotroping with toluene, and loaded onto an NH2-silica cartridge. Non acidic impurities were eluted with acetonitrile, then the desired product was eluted with 10% acetic acid in acetonitrile. Solvent was removed in vacuo to give the sub-title compound (2.5 g).

reactant | (S)-tert-Butyl 2-amino-3-(6-bromopyridin-3-yl)propanoate | 4 g | N[C@H](C(=O)OC(C)(C)C)CC=1C=NC(=CC1)Br | C12H17BrN2O2
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-3-(6-bromopyridin-3-yl)propanoic Acid | 2.5 g | N[C@H](C(=O)O)CC=1C=NC(=CC1)Br | C8H9BrN2O2
